US04963553
7-(3-Chlorophenyl)-4.5-dihydro-6-methyl-4-[[4-(phenylmethyl)piperazinyl]acetyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, dihydrochloride
A mixture of 3.1 g of 4-(chloroacetyl)-7-(3-chlorophenyl)-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile, 1.1 g of sodium carbonate, 1.7 g of N-benzylpiperazine and 115 ml of toluene was reacted as described in Example 16, giving the base form of the product which was converted to the dihydrochloride salt by the procedure of Example 97, giving 1.3 g, mp 201°-203° C.

reactant | 4-(chloroacetyl)-7-(3-chlorophenyl)-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | 3.1 g | ClCC(=O)N1C=2N(C(=C(C1)C)C1=CC(=CC=C1)Cl)N=CC2C#N | C16H12Cl2N4O
reactant | sodium carbonate | 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-benzylpiperazine | 1.7 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | toluene | 115 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(3-Chlorophenyl)-4.5-dihydro-6-methyl-4-[[4-(phenylmethyl)piperazinyl]acetyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)C1=C(CN(C=2N1N=CC2C#N)C(CN2CCN(CC2)CC2=CC=CC=C2)=O)C | InChI=1S/C27H27ClN6O.2ClH/c1-20-17-33(25(35)19-32-12-10-31(11-13-32)18-21-6-3-2-4-7-21)27-23(15-29)16-30-34(27)26(20)22-8-5-9-24(28)14-22;;/h2-9,14,16H,10-13,17-19H2,1H3;2*1H
